US07247741B2
A solution of 4-isopropyl-3-methylphenol (10.0 g, 67 mmol), methyl bromoacetate (6.6 mL, 70 mmol) and anhydrous potassium carbonate (10.1 g, 73 mmol) in 2-butanone (100 mL) was heated to reflux for 20 h. The mixture was cooled and partitioned between water (350 mL) and ethyl acetate (100 mL). The organic phase was washed with brine, and the aqueous phases were back-extracted in sequence with more ethyl acetate. The extracts were combined, dried over anhydrous magnesium sulfate, filtered and evaporated to afford sufficiently pure product, methyl 2-(4 isopropyl-3-methylphenoxy)acetate, as an oil (15.0 g, 67 mmol, 100%). 1H NMR (CDCl3, 300 MHz): δ 7.05 (1H, d, J=9.3 Hz), 6.64–6.58 (2H, m), 4.51 (2H, s), 3.71 (3H, s), 2.98 (1H, m, J=7.0 Hz), 2.22 (3H, s), 1.11 (6H, d, J=7.0 Hz).

reactant | 4-isopropyl-3-methylphenol | 67 mmol, 10.0 g | C(C)(C)C1=C(C=C(C=C1)O)C | C10H14O
reactant | methyl bromoacetate | 70 mmol, 6.6 mL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 73 mmol, 10.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 100 mL | CC(CC)=O | C4H8O
product | methyl 2-(4 isopropyl-3-methylphenoxy)acetate | C(C)(C)C1=C(C=C(OCC(=O)OC)C=C1)C | C13H18O3
